US08492372B2
(−)-N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE
(−)-N-benzyl-N-methyl-1-[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine (0.37 g, 1.06 mmol), palladium on carbon (10%, 45 mg) and EtOH (15 ml) was hydrogenated at 45 psi for 14 h. The reaction mixture was filtered through a pad of celite and the filtrate was evaporated to dryness (0.25 g). Purification by flash chromatography (EtOAc/MeOH 2:1) afforded the pure title compound (0.23 g, 84%, >95% e.e.). The amine was converted into the hydrochloric acid salt and crystallized from EtOH/MeOH/DEE. M.p. 225° C. [α]DMeOH=−81°. MS m/z (rel. intensity, 70 eV) 257 (M+, 2), 123 (bp), 106 (29), 77 (88), 51 (61).

reactant | (−)-N-benzyl-N-methyl-1-[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine | 1.06 mmol, 0.37 g | C(C1=CC=CC=C1)N(CC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C)C | C18H21NO4S
catalyst | palladium on carbon | 45 mg | [Pd] | Pd
solvent | EtOH | 15 ml | CCO | C2H6O
product | (−)-N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE | 0.23 g, 84% | CNCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C11H15NO4S
